US04101667
The mixture of 1.1g of 9-chloro-10,11-dihydro-2-ethoxy-11-hydroxydibenzo[b,f]thiepin and 30ml of thionyl chloride was refluxed for 3 hrs. and evaporated to obtain the residue, to which was added 50g of ice-water. The resulting mixture was extracted with chloroform and the extract was washed with water and dried over calcium chloride. The solvent was evaporated to obtain the concentrated which was added with stirring at room temperature to a mixture of 70ml of anhydrous tetrahydrofuran and 400mg of lithium aluminum hydride. The thus obtained mixture was refluxed with stirring for 4hrs., to which was added 30% sodium hydroxide solution with stirring under cooling with a mixture of ice and sodium chloride. The mixture was filtered and the filtrate was evaporated to obtain the residue, to which was added 100ml of chloroform and 100ml of water, and the chloroform layer was collected. This was washed with water, dried and the solvent was evaporated to obtain 520mg of 9-chloro-10,11-dihydro-2-ethoxydibenzo[b,f]thiepin as oily substance.

reactant | 9-chloro-10,11-dihydro-2-ethoxy-11-hydroxydibenzo[b,f]thiepin | 1.1g | ClC1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)OCC)O | C16H15ClO2S
reactant | thionyl chloride | 30ml | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 100ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100ml | O | H2O
product | 9-chloro-10,11-dihydro-2-ethoxydibenzo[b,f]thiepin | 520mg | ClC1=CC=CC2=C1CCC1=C(S2)C=CC(=C1)OCC | C16H15ClOS
